US06313122B1
B. 4-(1-Methoxy-1-methylethyl)benzoic Acid
To a solution of methyl 4-(1-methoxy-1-methylethyl)benzoate (120 mg, 0.57 mmol) in tetrahydrofuran (6 mL) and methanol (2 mL) was added 1 M aqueous lithium hydroxide (2 mL). After stirring for 2 h, the reaction mixture was diluted with diethyl ether and washed with 1 N hydrochloric acid (4 mL) and water (4 mL). The organic layer was dried (magnesium sulfate), filtered, and concentrated in vacuo to give 93 mg (84%) of the title compound.

reactant | methyl 4-(1-methoxy-1-methylethyl)benzoate | 0.57 mmol, 120 mg | COC(C)(C)C1=CC=C(C(=O)OC)C=C1 | C12H16O3
reactant | lithium hydroxide | 1 M, 2 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(1-Methoxy-1-methylethyl)benzoic Acid | 93 mg, 84% | COC(C)(C)C1=CC=C(C(=O)O)C=C1 | C11H14O3
